### PR TITLE
Begin working on Hartogs numbers

### PR DESCRIPTION
**Pull request by Columbus240**
Also:
- Enable universe polymorphism, because otherwise some statements can’t
be made.
- Introduce the type [WO] of well-orders. This simplifies notation.

There are some holes that need to be filled in the proofs.

Related to issue #22

### CODE REVIEW

File: theories/ZornsLemma/Hartog.v [hunk 1]
```diff
@@ -0,0 +1,192 @@
...
+Lemma WO_repr_fn_lt x y :
+  WO_lt (WO_repr_fn x) (WO_repr_fn y) <->
+  WO_lt x y.
+Proof.
+  intros.
+Admitted.
+
+Program Definition WO_next (E : WO -> Prop) : WO :=
+  {| WO_T := { W : WO | exists W', W = WO_repr_fn W' /\ In E W' } |}.
+Proof.
```
Comment (palmskog) [inline theories/ZornsLemma/Hartog.v]:
```suggestion
  {| WO_T := { W : WO | exists W', W = WO_repr_fn W' /\ In E W' } |}.
```
The `Proof` sentence here is not supported in Coq 8.10.

**Comment by Columbus240** [comment]
I abandon this branch. The usual ordinal constructions of set-theory are hard to reproduce in type-theory. Universe conflicts etc. also make it hard to work with. Maybe I first have to study ordinals in ETCS or similar, before retrying the Hartog construction.
I'll describe the long line differently.
